US07915284B2
3.2 [3-(2-p-Tolylimidazo[1,2-a]pyridin-6-yl)phenyl]methanol
Under a stream of nitrogen, 200 mg of 6-bromo-2-p-tolylimidazo[1,2-a]pyridine, 160 mg of 3-(hydroxymethyl)phenylboronic acid and 24 mg of tetrakis(triphenylphosphine)palladium are placed in a microwave tube containing 2 ml of toluene degassed beforehand under a stream of nitrogen, 2 ml of acetonitrile and 2 ml of a 2M solution of sodium carbonate. The tube is placed in a microwave apparatus and irradiated at 150° C. for 15 min. The organic phase is separated and dried and the filtrate is concentrated under reduced pressure. The residue obtained is taken up with 6 ml of dichloromethane. The precipitate is recovered by filtration, washed with dichloromethane and dried in a desiccator under reduced pressure. 100 mg of compound are obtained. Mp=171-173° C. 1H NMR (DMSO-d6, δ in ppm): 2.32 (s, 3H); 4.57 (d, J=5.6 Hz, 2H); 5.23 (t, J=5.7 Hz, 1H); from 7.19 to 7.67 (m, 8H); 7.84 (d, J=8 Hz, 2H); 8.32 (s, 1H); 8.82 (m, 1H). M+H=315.

reactant | 6-bromo-2-p-tolylimidazo[1,2-a]pyridine | 200 mg | BrC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C=C2)C | C14H11BrN2
reactant | 3-(hydroxymethyl)phenylboronic acid | 160 mg | OCC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 24 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | [3-(2-p-Tolylimidazo[1,2-a]pyridin-6-yl)phenyl]methanol | 100 mg | C1(=CC=C(C=C1)C=1N=C2N(C=C(C=C2)C=2C=C(C=CC2)CO)C1)C | C21H18N2O
